US08975415B2
To a mixture of di-tert-butyl [(4S)-6′-bromo-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl]imidodicarbonate (3.40 g, 6.14 mmol), bis(dibenzylideneacetone)palladium(0) (353 mg, 0.614 mmol), and tri-tert-butylphosphonium tetrafluoroborate (179 mg, 0.617 mmol) was added lithium bis(trimethylsilyl)amide (1M solution in toluene, 31 mL, 31 mmol) at ambient temperature under argon atmosphere. After stirring for 1.5 hours at 60° C., the mixture was cooled in an ice-water bath and 1M aqueous HCl (31 mL) was added. After stirring for 10 minutes at ambient temperature, to the mixture was added CHCl3, and the mixture was filtered through a pad of celite. The filtrate was separated and the aqueous layer was extracted with CHCl3. The combined organic layer was dried over Na2SO4 and filtered. The filtrate was concentrated at reduced pressure. To the residue were added MeOH (34 mL) and silica gel (neutral; 17 g) at ambient temperature. After stirring for 1 hour at 40° C., the mixture was concentrated at reduced pressure. The residue was purified with column chromatography on silica gel (hexane-EtOAc, a linear gradient of EtOAc from 10 to 100%) to afford tert-butyl [(4S)-6′-amino-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl]carbamate (2.38 g).

reactant | di-tert-butyl [(4S)-6′-bromo-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl]imidodicarbonate | 6.14 mmol, 3.40 g | BrC=1C=C2[C@]3(N=C(OC3)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C3(COC3)C(OC2=CC1)(C)C | C25H33BrN2O7
reactant | tri-tert-butylphosphonium tetrafluoroborate | 0.617 mmol, 179 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | lithium bis(trimethylsilyl)amide | 31 mmol, 1M, 31 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | HCl | 1M, 31 mL | Cl | ClH
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.614 mmol, 353 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl [(4S)-6′-amino-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl]carbamate | 2.38 g | NC=1C=C2[C@]3(N=C(OC3)NC(OC(C)(C)C)=O)C3(COC3)C(OC2=CC1)(C)C | C20H27N3O5
